US08134013B2
7-(2-{1-[4-Hydroxy-1-methyl-5-(4-trifluoromethylphenyl)-1H-pyrazol-3-yl]ethylidene}hydrazinecarbothioamido)-4H-benzo[1,4]oxazin-3-one
7-Amino-4H-benzo[1,4]oxazin-3-one (33 mg, 0.203 mmol) was stirred with a dimethylformamide solution of thiocarbonyldiimidazole (0.1 M, 2.03 mL, 0.203 mmol) at room temperature for 1 hour and then with a dimethylformamide solution of 3-(1-hydrazonoethyl)-1-methyl-5-[4-(trifluoromethyl)phenyl]-1H-pyrazol-4-ol prepared in Reference Synthetic Example 14 (0.1 M, 1.36 mL, 0.135 mmol) at room temperature for 4 hours Water was added, and the precipitated solid was collected by filtration, washed with water and dried. After addition of chloroform, the solid was collected by filtration washed with chloroform and dried to give 33.6 mg of the desired product (yield 49%).

reactant | 7-Amino-4H-benzo[1,4]oxazin-3-one | 0.203 mmol, 33 mg | NC1=CC2=C(NC(CO2)=O)C=C1 | C8H8N2O2
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | thiocarbonyldiimidazole | 0.203 mmol, 0.1 M, 2.03 mL | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
reactant | 3-(1-hydrazonoethyl)-1-methyl-5-[4-(trifluoromethyl)phenyl]-1H-pyrazol-4-ol | N(N)=C(C)C1=NN(C(=C1O)C1=CC=C(C=C1)C(F)(F)F)C | C13H13F3N4O
solvent | Water | O | H2O
product | 7-(2-{1-[4-Hydroxy-1-methyl-5-(4-trifluoromethylphenyl)-1H-pyrazol-3-yl]ethylidene}hydrazinecarbothioamido)-4H-benzo[1,4]oxazin-3-one | 33.6 mg, yield 49% | OC=1C(=NN(C1C1=CC=C(C=C1)C(F)(F)F)C)C(C)=NNC(NC1=CC2=C(NC(CO2)=O)C=C1)=S | C22H19F3N6O3S
